### PR TITLE
[Merged by Bors] - feat(Analysis/Complex/IsIntegral): `I` is integral over any `CommRing`

### PR DESCRIPTION
**Pull request by SnirBroshi**
We have separate theorems for `ℤ` and `ℚ`, but one is enough for all rings.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/IsIntegral.lean [hunk 1]
```diff
@@ -21,11 +22,11 @@ open Polynomial
 
 namespace Complex
 
-theorem isIntegral_int_I : IsIntegral ℤ I := by
-  refine ⟨X ^ 2 + C 1, monic_X_pow_add_C _ two_ne_zero, ?_⟩
-  rw [eval₂_add, eval₂_X_pow, eval₂_C, I_sq, eq_intCast, Int.cast_one, neg_add_cancel]
+theorem isIntegral_I {R : Type*} [CommRing R] [Algebra R ℂ] : IsIntegral R I :=
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/IsIntegral.lean]: should `R` be explicit here? (maybe not?)

File: Mathlib/Analysis/Complex/IsIntegral.lean
Comment (themathqueen) [inline Mathlib/Analysis/Complex/IsIntegral.lean]: I don't think this is needed anymore, right?

File: Mathlib/Analysis/Complex/IsIntegral.lean [hunk 2]
```diff
@@ -21,11 +22,11 @@ open Polynomial
...
+  ⟨X ^ 2 + C 1, monic_X_pow_add_C _ two_ne_zero, by simp⟩
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/IsIntegral.lean]: Maybe something else we could do is have a lemma for `IsIntegral ℤ x -> IsIntegral R x`, like
```lean
lemma IsIntegral.of_int {R B : Type*} [CommRing R] [Ring B] [Algebra R B] {x : B}
    (h : IsIntegral ℤ x) : IsIntegral R x := h.tower_top
```
because there might be other lemmas that also need to be generalized this way?

or maybe we should just generalize them all, I'm not sure.

Just thinking out loud.

Comment (SnirBroshi) [reply Mathlib/Analysis/Complex/IsIntegral.lean]: But isn't that exactly `tower_top`? Why do we need to specialize to `ℤ`?

Comment (themathqueen) [reply Mathlib/Analysis/Complex/IsIntegral.lean]: Oh, I was just doing `:= by exact?` to check, I didn't look or think too much into it. Yeah, we don't need that.

File: Mathlib/Analysis/Complex/IsIntegral.lean
Comment (themathqueen) [inline Mathlib/Analysis/Complex/IsIntegral.lean:1]: (not for this PR, but...)
why is this file even in `Analysis`?

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by ocfnash** [comment]
bors merge
